US08048887B2
To a 250 mL round-bottomed flask was added 3-chloro-5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoic acid (3.62 g, 8.55 mmol), 2-methylpropan-1-amine (1.274 mL, 12.83 mmol), N-ethyl-N,N-diisopropylamine (2.98 mL, 17.10 mmol), and 3 eq. of HATU (2-(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yl)-1,1,3,3-tetramethylisouronium hexafluorophosphate(V) (9.75 g, 25.7 mmol)) along with 114 mL of DMF. The mixture was stirred overnight at room temperature. The crude reaction mixture was transferred to a separatory funnel, diluted with 300 mL of dichloromethane and washed with 100 mL of 1 N HCl, water, and brine. After drying over magnesium sulfate the crude residue was pushed through a plug of silica gel and evaporated to a tan solid. The solid was triturated with diethyl ether then cold acetonitrile to give a 52% yield of 5-(4-chloro-3-(isobutylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide, as a light yellow powder. The NMR spectrum was recorded at room temperature using a Bruker DRX500 spectrometer. The LC/MS data was obtained on a Shimadzu analytical LC/MICROMASS® Platform LC (ESI+) at 220 nm using the following set of conditions: Waters Sunfire 5 μm C18, 4.6×50 mm column, with a gradient of 0-100% B (B=90% HPLC grade acetonitrile/0.1% trifluoroacetic acid/10% HPLC grade water), (A=90% HPLC grade water/0.1% trifluoroacetic acid/10% HPLC grade acetonitrile), in 3 minutes with a 1 minute hold at a rate of 4 mL/minute. HPLC purity was determined using a Shimadzu analytical LC at 220 nm and 256 nm with a Waters Sunfire C18 3.5 μm 4.6×150 mm column employing water/acetonitrile/0.1% TFA with a gradient of 10-100% B (B=95% HPLC grade acetonitrile/0.1% trifluoroacetic acid/5% HPLC grade water), (A=95% HPLC grade water/0.1% trifluoroacetic acid/5% HPLC grade acetonitrile), in 10 minutes with a 10 minute hold at a rate of 1 mL/minute. The HPLC purity was then confirmed with an orthogonal solvent system and column using a Shimadzu analytical LC with a Waters XBridge phenyl C18 3.5 μm 4.6×150 mm column employing water/methanol/10 mM ammonium bicarbonate with a gradient of 10-100% B (B=95% HPLC grade methanol/10 mM ammonium bicarbonate/5% HPLC grade water), (A=95% HPLC grade water/10 mM ammonium bicarbonate/5% HPLC grade methanol), in 10 minutes with a 10 minute hold at a rate of 1 mL/minute. 1H NMR (500 MHz, DMSO-d6) δ ppm 0.94 (d, J=6.41 Hz, 6H), 1.72-1.97 (m, 1H), 2.87 (d, J=4.58 Hz, 3H), 3.10 (t, J=6.26 Hz, 2H), 7.40 (t, J=8.85 Hz, 2H), 7.59 (d, J=8.55 Hz, 1H), 7.69-7.75 (m, 2H), 7.76-7.82 (m, 2H), 7.90 (br. s., 1H), 7.97-8.07 (m, 2H), 8.55 (br. s., 2H). LCMS m/z 479.04 (M+H), Rt 2.658 min. HPLC Rt 10.810 min. (Sunfire C18) and 12.154 min. (XBridge phenyl C18), 92% purity.

reactant | 3-chloro-5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoic acid | 8.55 mmol, 3.62 g | ClC=1C=C(C(=O)O)C=C(C1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1 | C23H15ClFNO4
reactant | 2-methylpropan-1-amine | 12.83 mmol, 1.274 mL | CC(CN)C | C4H11N
reactant | N-ethyl-N,N-diisopropylamine | 17.10 mmol, 2.98 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | HATU | 25.7 mmol, 9.75 g, 3 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | DMF | 114 mL | CN(C)C=O | C3H7NO
product | 5-(4-chloro-3-(isobutylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 52% yield | ClC1=C(C=C(C=C1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)C(NCC(C)C)=O | C27H24ClFN2O3
